US04476132
2.65 g of malonic acid diethyl ester are dissolved in 40 ml of dimethylacetamide, and the solution is cooled to 10° and converted into the sodium salt with sodium hydride (0.768 g of a 50% strength suspension in mineral oil, de-oiled with hexane) under nitrogen. The sodium salt is heated to 105°, in the course of 1 hour 3.80 g of N-ethyl-5-butyrylisatic acid anhydride in 20 ml of dimethyl acetamide are added dropwise, and the mixture is stirred for 10 hours at 120° and overnight at room temperature. It is then filtered over diatomaceous earth, the dimethyl acetamide is distilled off under reduced pressure, and 250 ml of ice-water and 20 ml of 2N hydrochloric acid are added to the mixture which is then stirred for some time, filtered with suction and dried in the atmosphere. The crude product is recrystallised from methanol/water (90 ml+45 ml), filtered with suction, washed with 50% strength methanol and dried under reduced pressure. 1-Ethyl-6-butyryl-4-hydroxycarbostyril-3-carboxylic acid ethyl ester having a melting point of 163°-165° is obtained.

reactant | malonic acid diethyl ester | 2.65 g | C(C)OC(CC(=O)OCC)=O | C7H12O4
reactant | sodium | [Na] | Na
reactant | sodium hydride | [H-].[Na+]
reactant | N-ethyl-5-butyrylisatic acid anhydride | 3.80 g | C(C)NC=1C(=CC(=CC1)C(CCC)=O)C(=O)C(=O)OC(C(C=1C(NCC)=CC=C(C1)C(CCC)=O)=O)=O | C28H32N2O7
solvent | dimethylacetamide | 40 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethyl acetamide | 20 ml | CC(=O)N(C)C | C4H9NO
solvent | hexane | CCCCCC | C6H14
product | 1-Ethyl-6-butyryl-4-hydroxycarbostyril-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=CC=C(C=C2C1O)C(CCC)=O)CC)=O | C18H21NO5
